US07538101B2
Step 7: [5-(1-Cyclobutyl-piperidin-4-yloxy)-1-isopropyl-1H-indol-2-yl]-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-methanone
To a mixture of (1,1-dioxo-1λ6-thiomorpholin-4-yl)-[1-isopropyl-5-(piperidin-4-yloxy)-1H-indol-2-yl]-methanone (268 mg, 1.0 eq.) in acetic acid (115 mg, 3.0 eq.) was added a solution of cyclobutane (90 mg, 2.0 eq.) in tetrahydrofuran (8 mL). The mixture was stirred for 2 h at 55° C. Then the mixture was cooled to room temperature and sodium triacetoxyborohydride (279 mg, 2.0 eq.) was added. The reaction mixture was stirred overnight at 65° C. The residue was partitioned between water and ethyl acetate. The organic layer was washed with a sodium hydrogenocarbonate aqueous solution, dried over sodium sulfate, filtered and dried in vacuo. Then the residue was purified on silica eluting with a gradient of dichloromethane/methanol to yield 97 mg (32%) of the desired product as off-white oil. MS (m/e): 474.5 (MH+, 100%).

reactant | (1,1-dioxo-1λ6-thiomorpholin-4-yl)-[1-isopropyl-5-(piperidin-4-yloxy)-1H-indol-2-yl]-methanone | 268 mg, 1.0 eq. | O=S1(CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)OC1CCNCC1)C(C)C)=O | C21H29N3O4S
reactant | acetic acid | 115 mg, 3.0 eq. | C(C)(=O)O | C2H4O2
reactant | cyclobutane | 90 mg, 2.0 eq. | C1CCC1 | C4H8
reactant | sodium triacetoxyborohydride | 279 mg, 2.0 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | [5-(1-Cyclobutyl-piperidin-4-yloxy)-1-isopropyl-1H-indol-2-yl]-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-methanone | 97 mg, 32% | C1(CCC1)N1CCC(CC1)OC=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)N1CCS(CC1)(=O)=O | C25H35N3O4S
